Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
word finding difficulties, fever, weakness, incontinence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M w/ recently diagnosed metastatic squamous 
cell carcinoma, presumably of lung origin, with widely 
metastatic disease to bone who presented to the ER today with 
word finding difficulties, urinary incontinence, fever and 
increased weakness. His SNF felt that his mental status was 
worse, starting last night. His VS were stable, with T 98.1, BP 
120/66, HR 97, RR 20 and sats 93% on RA. Exam was notable for R 
leg weakness and inability for him to speak more than 2 coherent 
sentences. Per their report, he denied any abdominal pain, 
fevers, or chills. 
.
In the ER, he was seen by both ortho-spine and neurology and 
underwent an MRI of his spine which showed worsening of the 
disease in his spine, extending through the cortex of the sacrum 
and into the left and right iliac bone with severe narrowing at 
S1. There is also a new pathologic L3 fracture with retropulsion 
onto the cord. Ortho-spine did not appreciate any change in his 
weakness and recommended XRT to his spine. They recommended 
against the use of steroids, given his fever and possible 
infection and no evidence of cord compression on MRI. Neurology 
was also consulted and recommended an MRI of his head to 
evaluate for metastases or some other etiology for his word 
finding difficulties. CT head noncontrast was negative. He 
spiked a temperature to 101.7 in the ER shortly after arrival 
and was treated with CTX, vanco, levaquin. He also received 2L 
NS. 
.  
Review of Systems:  
(+) as per HPI - pt unable to fully cooperate with full ROS

 
Past Medical History:
ONCOLOGIC HISTORY:
# Metastatic squamous cell carcinoma, likely lung origin
- widely metastatic bony mets
- s/p XRT to sacral metastasis - 3000cGy from ___ to ___
.
PAST MEDICAL HISTORY:  
# h/o left frontal lobe meningioma
- diagnosed in ___ s/p excision
- recurrence at the same location in ___ s/p excision
- c/b injury to normal brain tissue resulting in left eye 
blindness, memory deficits and a seizure disorder.  
# OSA, uses CPAP at night 
# squamous carcinoma in situ x 2, resected from temporal scalp 
in ___ and ___
# h/o colonic adenomas

 
Social History:
___
Family History:
His mother had arthritis and father had prostate disease and 
Alzheimer's disease. He has one brother and one sister who are 
healthy to his knowledge. 

 
Physical Exam:
VS - T 97.4, BP 142/97, HR 98, RR 20, sats 96% 2L nc
GEN: NAD, alert and oriented but poor memory
HEENT: Sclera anicteric, EOMI, OP clear. Dry MM. Normal 
oro/nasopharynx 
CV: RRR, normal S1, S2. No m/r/g. 
PULM: CTA posteriorly and at bases - expiratory wheeze w/ mild 
rhonchi in left upper lobe region. No rales.  
ABD: Soft, nondistended, +BS, TTP in all 4 quadrants 
EXT: No cyanosis/ecchymosis/edema
SKIN: No appreciable rashes. 
NEURO: CN II-XII grossly intact - ?rotary nystagmus. Moves all 
extremities on own with sensation intact. 
 
Pertinent Results:
WBC 9.9, Hgb 13.2, Hct 38.3, MCV 93, 196K 
diff: 86.7 N, 7.5 L, 5.2 M, 0.5 E, 0.___.8  PTT: 22.2  INR: 1.2      

139  100  19      AGap=14 
------------< 112 
4.2  29  0.6  

Ca: 9.0 Mg: 1.8 P: 3.6
ALT: 12 AP: 510 Tbili: 0.4  
AST: 19 Lip: 22     
Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Negative 
Trop-T: <0.01 
lactate 2.0
UA: ___ RBC, ___ WBC, no bacteria, 25 prot, trace ketones
.
EEG: This is an abnormal extended routine EEG mostly in the 
awake state due to the mildly slow background suggestive of a 
mild 
encephalopathy. The slower and higher voltage activity in the 
left 
fronto-central area is suggestive of subcortical dysfunction in 
this 
region as well as a breach effect and also because of left 
temporal 
epileptic discharges suggestive of increased irritability in 
this 
region. 
.
MRI head ___: Post-surgical changes status post left 
frontal craniotomy with a stable appearance of the resection 
cavity involving the left frontal lobe. Stable nodular areas of 
enhancement along the planum sphenoidale may represent residual 
foci of neoplasm versus post-surgical changes. No new focus of 
abnormal enhancement is identified. 
.
MRI spine ___: 1. Progression of metastatic disease within 
the thoracic spine, with an increasing lesion at T6. Focus at 
T12 may be an additional area of metastatic disease versus an 
atypical hemangioma. 
2. Because the patient was unable to continue with the 
examination, the 
lumbar spine, including the retropulsed lesion at L2 were not 
evaluated. The brain was also not evaluated. 
3. Multilevel compression deformities in the thoracic spine, 
unchanged since the prior examination. 
4. No evidence of thecal sac compromise in the cervical or 
thoracic spine.
.
MR ___ ___: 
Progressive metastatic disease throughout the visualized 
thoracolumbar spine and sacrum with new levels of involvement at 
L3 and L5. There is moderate intrathecal crowding at L3 
secondary to retropulsion from the pathologic fracture and an 
associated epidural mass as well as severe narrowing of the 
caudal aspect of the thecal sac secondary to the large S1 
epidural mass. 
.
CT torso: 1. No significant change in size of dominant right 
upper lobe pulmonary mass, with an increase in reticular nodular 
opacities throughout the right lung, which again may reflect 
lymphangitic spread. 
2. New bilateral pleural effusions, moderate on the right, small 
on the left. 
3. Indeterminant cystic lesion in the upper pole of the left 
kidney, 
unchanged. 
4. Diffuse osseous metastases with progression. New destruction 
of the L2 
vertebral body and retropulsion into the spinal canal for which 
an MRI could be obtained for further evaluation. 
.
CXR ___: 
1. Right costophrenic angle not included on the image. 
2. Large right upper lobe ill-defined opacity corresponds to 
mass seen on prior CT, again highly concerning for malignancy. 
Right lung overall more dense than the left, which may relate to 
technique and patient's rotated patient position, although an 
underlying process such as infection or lymphangitic 
carcinomatosis cannot be excluded. 
.
CT head ___: No acute intracranial abnormality. Please note 
that MRI is more sensitive for evaluation for recurrent 
meningioma or small brain lesions.
 

 
Brief Hospital Course:
A/P: ___ M w/ recently diagnosed metastatic squamous cell 
carcinoma, presumably of lung origin, with widely metastatic 
disease to bone who presented to the ER today with word finding 
difficulties, urinary incontinence, fever and increased 
weakness. 
.
# Altered mental status/weakness/word finding difficulties: 
Initially concerning for delirium vs. infection vs. metastasis 
to brain vs. medication (dexamethasone) vs. seizure activity. 
Patient was empirically treated with antibiotics, with good 
effect and MRI brain showed no metastasis; blood and urine 
cultures remained negative. Patient returned to baseline mental 
status approximately 48 hours after his grand mal seizure. 
Neurology saw the patient and felt his weakness was due to 
deconditioning and the spread of mets in his spine. EEG after 
the grand mal seizure did not show further epileptic activity 
and in fact, showed some temporal activity suggestive of good 
seizure control on carbamazepine. 
- Continue physical therapy: Patient currently very 
deconditioned and only able to sit up at side of bed and stand 
for a few minutes. Also does not feel comfortable in the TLSO 
brace. Please continue to encourage work with physical therapy - 
does not need to keep TLSO on if really does not like it. 
Mobility limited by pain - please pre-medicate prior to physical 
therapy (oxycodone, oxycontin, lidocaine patches to sacrum and 
left leg)
- Taper dexamaethasone per below 
- Continue antiepileptic medications per below 
- Patient requesting that Condom Cath be kept in place given 
dislike of coordinating urinal, going to commode. Discontinue 
Condom Cath as soon as patient sufficiently ambulatory or 
interested in trying urinal again. Does not have incontinence or 
retention issues.
.
# Metastatic NSCLC: Appears to have progressive disease 
throughout spine per MRI ___ performed in ED. Per Neurology, 
this most likely explains his worsened back pain and new onset 
bilateral lower extremity weakness. Altered mental status with 
new word finding difficulties also concerning initially for 
brain mets but MRI brain within normal limits. Ortho-spine saw 
patient in the ED and was not concerned about cord compression. 
Radiation Oncology also saw the patient but felt he was not a 
candidate for further radiation given his recent treatment 
(needs 6 month off for safety, healing). Patient was started on 
dexamethasone for management of his spinal met pain. His pain 
medication regimen from his previous ___ facility was 
modified (increased Oxycodone 5 --> 10 every 6 hours) with some 
relief of symptoms. In a family meeting with the patient, upon 
his return to baseline mental status, his health care proxy, his 
nurse practitioner, his primary oncologist and palliative care, 
patient elected for ongoing palliative care instead of 
chemotherapy given his poor and declining functional status. 
Patient decided to change his code status to DNR/DNI. 
- Continue pain medication regimen as prescribed 
- Continue Dexamethasone taper as follows: Dexamethasone 4mg 
every 8 hours X1 more day (___), then Dexamethasone 4mg twice 
daily X3 days (___), then Dexamethasone 4mg once daily X3 
days ___. Then STOP. 
.
# ?Post-obstructive pneumonia: Unclear given his initial CXRs 
(final read was malignancy vs. infection) but given patient's 
initial hypoxia and altered mental status, he was continued on 
broad spectrum antibiotics (vancomycin, levaquin, ceftriaxone). 
Patient's CT torso showed worsening metastasis in the spine but 
no localizing infectious source (including the lungs). Given 
patient's grand mal seizure, however, felt likely triggered due 
to an infectious etiology, patient was continued on his 
antibiotics for Vancomycin 5 day course, Levaquin/CTX 8 day 
course (for health care associated pneumonia). Blood and urine 
cultures remained no growth to date. There were initial 
discussions also, because of patient's decreased responsiveness 
post-ictally and his continued low grade fevers the first two 
days of admission that he should undergo a l 
.
# Seizure disorder: Patient was continued on his carbamazepine 
and gabapentin in-house. On second evening of admission, 
however, patient had a grand mal seizure and was given 1gram 
Keppra; ativan was not given in time as the seizure only lasted 
~1 minute. Per patient, his typical seizures have been grand mal 
although with a couple hours of post-ictal confusion/amnesia. 
After patient's grand mal seizure in-house, he remained 
confused, altered (angry, contrary) for 24+ hours. Mental status 
improved dramatically after that and patient was back to 
baseline, per his health care proxy and nurse practitioner. 
Neurology followed patient in-house and recommended increasing 
his carbazepine dose, continuing his gabapentin and pregabalin 
as is. It was felt that his increased seizure activity, despite 
serologies documenting therapeutic carbamazepine levels, was 
likely due to underlying infection. MRI of the head was negative 
for metastasis that had initially thought could be contributing 
to the increased seizure activity. 
- Continue Carbamazepine ER 300mg twice daily 
- Continue Gabapentin 300 every 8 hours 
- Continue Pregabalin 100mg before bed 
- Patient has an appointment with his outpatient neurologist, 
Dr. ___ on ___ at 4pm. 
.
# Obstructive Sleep Apnea: Once patient's mental status returned 
to baseline, he requested a CPAP for improved quality of sleep. 
CPAP was ordered with autosettings with good effect. 
- Continue CPAP as outpatient if possible 
.  
# Code: FULL CODE --> CHANGED TO DNR/DNI in further discussions 
with patient, confirmed ___ 
 
Medications on Admission:
carbamazepine 300mg PO ___ Q AM, 200mg PO ___ Q ___
carbamazepine 300mg PO BID ___
oxycontin 40mg PO Q8 hours
dexamethasone taper, last dose ___
bisacodyl suppository daily prn constipation
MOM 30mL PO daily prn constipation
tylenol ___ PO Q8h prn pain
oxycodone 5mg PO Q4h prn pain
oxycodone 10mg PO Q4h prn severe pain
lyrica 100mg PO QHS
trazadone 200mg PO QHS
miralax 17gm PO daily
gabapentin 300mg PO Q8
docusate 100mg PO Q8
senna 2 tab PO BID
MVI 1 tab PO daily
omeprazole 20mg PO daily

 
Discharge Medications:
1. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
2. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
3. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q8H (every 8 hours).  
4. Pregabalin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
5. Polyethylene Glycol 3350 17 gram/dose Powder Sig: Seventeen 
(17) gram PO DAILY (Daily) as needed for constipation.  
6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Carbamazepine 100 mg Tablet Sustained Release 12 hr Sig: 
Three (3) Tablet Sustained Release 12 hr PO BID (2 times a day). 
 
12. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical DAILY (Daily): Please 
keep 12 hours ON, 12 hours OFF for left leg / sacrum pain.  
13. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for pain.  
14. Dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 1 days: ___.  
15. Dexamethasone 4 mg Tablet Sig: One (1) Tablet PO twice a day 
for 3 days: ___.  
16. Dexamethasone 4 mg Tablet Sig: One (1) Tablet PO once a day 
for 3 days: ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Metastatic squamous cell carcinoma, grand mal seizure
Secondary: Meningioma with recurrence s/p excision, obstructive 
sleep apnea, squamous cell carcinoma of the scalp

 
Discharge Condition:
Mental Status: Clear and coherent (word finding difficulties)
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
-You were admitted with word finding difficulties, urinary 
incontinence, fevers and increased weakness. Your imaging showed 
worsening spread of your cancer to your spine likely causing 
your weakness. In discussions with Dr. ___ the 
___ care team, you decided to not pursue further 
treatment (chemotherapy); the goal of your medical care is 
comfort. You also worked with physical therapy. 
You had a grand mal seizure in the hospital, felt due to a 
pneumonia, which was treated with antibiotics; your seizure 
medications were also increased. 
.
-It is important that you continue to take your medications as 
directed. We made the following changes to your medications 
during this admission:
--> INCREASED Carbamazepine XR to 300mg three times daily 
--> INCREASE Oxycodone to 10mg every 6 hours as needed for pain 
--> START Lidocaine patches to your left leg for pain
--> START Fentanyl patch 50 mcg to sacrum 
--> TAPER Dexamethasone 4mg as follows: Dexamethasone 4mg every 
8 hours for today (___), then Dexamethasone 4mg twice daily 
X3 days (___), then Dexamethasone 4mg once daily X3 days 
___. Then STOP. 
.
-Contact your doctor or come to the Emergency Room should your 
symptoms return. Also seek medical attention if you develop any 
new fever, chills, trouble breathing, chest pain, nausea, 
vomiting or unusual stools.
 
Followup Instructions:
___